US07138533B2
6-Bromo-1-(2-thienyl)-1-hexanone
Using thiophene (5 ml) and 6-bromohexanoyl chloride (10.5 ml) according to the same method as that of Reference Example 1, the title compound (12.8 g) was obtained as a pale red solid.

reactant | thiophene | 5 ml | S1C=CC=C1 | C4H4S
reactant | 6-bromohexanoyl chloride | 10.5 ml | BrCCCCCC(=O)Cl | C6H10BrClO
product | 6-Bromo-1-(2-thienyl)-1-hexanone | 12.8 g | BrCCCCCC(=O)C=1SC=CC1 | C10H13BrOS
